*ADA4932 Macro-model
*Function:Fully Differential Amplifier
*
*Revision History:
*Rev.2.1 Nov 2021- Corrected output voltage clamp
*Rev.2.0 Mar 2016- New Generated Model;- JL
*Copyright 2016 by Analog Devices
*
*Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spicemodels/license
*for License Statement. Use of this model indicates your acceptance
*of the terms and provisions in the License Staement.
*
*Tested on MultSIm, SiMetrix(NGSpice), PSpice
*
*Not modeled: Distortion, PSRR, Overload Recovery,
*             Shutdown Turn On/Turn Off time
*
*Parameters modeled include:
*   Vos, Ibias, Input CM limits and Typ output voltge swing over full supply range,
*   Open Loop Gain & Phase, Slew Rate, Output current limits, Voltage & Current Noise over temp,
*   Capacitive load drive, Quiescent and dynamic supply currents,
*   Shut Down pin functionality where applicable,
*   Single supply & offset supply functionality.
*-------------------------------------------------------------------------------*
*When using model in Multisim:
*---->comment out the .ends ADA4932 statement and uncomment the .ends Main
*---->comment out the .ends ADA4932-Vocm statement and uncomment the .ends   
*-------------------------------------------------------------------------------*
*
.Subckt ADA4932 FBN VinP VinN FBP VCC VEE VoN VoP PD Vocm
*ADA4932 Model
*
R1	FBN	VoN	Rideal	1
R2	FBP	VoP	Rideal	1
R3	VoN	3	Rideal	0.75e3
R4	VoP	3	Rideal	0.75e3
R5	VCC	Vocm	Rideal	50e3
R6	VEE	Vocm	Rideal	50e3
Vos	VinP	1	dc	0.5e-3
*
X1	2	1	VCC	VEE	VoN	PD	ADA4932-Amp
X2	2	VinN	VCC	VEE	VoP	PD	ADA4932-Amp
X3	Vocm	3	VCC	VEE	2	PD	ADA4932-Vocm
.model	Rideal	res(T_ABS=-273)
.ends Main
*
*
.Subckt ADA4932-Amp 100 101 102 103 104 106
*
***Power Supplies***
Rz1	102	1020	Rideal	1e-6
Rz2	103	1030	Rideal	1e-6
R3	96	0	Rideal	1e3
S6	97	96	1020	1030	Sswitch
V2	97	0	dc	2
gBias	1020	1030	96	0	0.45e-3
DzPS	98	1020	diode
gQuies	1020	98	96	0	4.35e-3
S1	98	1030	106	113	Switch
R1	1020	99	Rideal	1e7
R2	99	1030	Rideal	1e7
e1	111	110	1020	110	1
e2	110	112	110	1030	1
e3	110	0	99	0	1
*
*
***Inputs***
Rs2	1	100	Rideal	1e-6
S3	9	101	106	113	Switch
VOS	1	2	dc	0e-3
IbiasP	110	2	dc	-2.5e-6
IbiasN	110	9	dc	-2.5e-6
RinCMP	110	2	Rideal	1e7
RinCMN	9	110	Rideal	1e7
CinCMP	110	2	4.5e-13
CinCMN	9	110	4.5e-13
IOS	9	2	0.025e-6
RinDiff	9	2	Rideal	1.6e7
CinDiff	9	2	5.5e-13
*
*
***Non-Inverting Input with Clamp***
g1	3	110	110	2	0.001
RInP	3	110	Rideal	1e3
RX1	40	3	Rideal	0.001
DInP	40	41	diode
DInN	42	40	diode
VinP	111	41	dc	2.26
VinN	42	112	dc	0.66
*
*
***Vnoise***
hVn	6	5	Vmeas1	707.10678
Vmeas1	20	110	DC	0
Vvn	21	110	dc	0.65
Dvn	21	20	DVnoisy
hVn1	6	7	Vmeas2	707.10678
Vmeas2	22	110	dc	0
Vvn1	23	110	dc	0.65
Dvn1	23	22	DVnoisy
*
*
***Inoise***
FnIN	9	110	Vmeas3	0.7071068
Vmeas3	51	110	dc	0
VnIN	50	110	dc	0.65
DnIN	50	51	DINnoisy
FnIN1	110	9	Vmeas4	0.7071068
Vmeas4	53	110	dc	0
VnIN1	52	110	dc	0.65
DnIN1	52	53	DINnoisy
*
FnIP	2	110	Vmeas5	0.7071068
Vmeas5	31	110	dc	0
VnIP	30	110	dc	0.65
DnIP	30	31	DIPnoisy
FnIP1	110	2	Vmeas6	0.7071068
Vmeas6	33	110	dc	0
VnIP1	32	110	dc	0.65
DnIP1	32	33	DIPnoisy
*
*
***CMRR***
RcmrrP	3	10	Rideal	1e12
RcmrrN	10	9	Rideal	1e12
g10	11	110	10	110	-7.297e-9
Lcmrr	11	12	1e-12
Rcmrr	12	110	Rideal	1e3
e4	5	3	11	110	0
*
*
***Power Down***
VPD	111	80	dc	2.5
VPD1	81	0	dc	0.7
RPD	111	106	Rideal	21e6
ePD	80	113	82	0	1
RDP1	82	0	Rideal	1e3
CPD	82	0	1e-10
S5	81	82	83	113	Switch
CDP1	83	0	1e-12
RPD2	106	83	1
*
*
***Gain Split***
g200	200	110	7	9	1
R200	200	110	Rideal	1
*
*
***Dominant Pole at 560 kHz***
g210	210	110	Value={limit(V(200,110)*5.044e-3,2.8e-3,-2.8e-3)}
R210	210	110	Rideal	2.842e5
C210	210	110	1e-12
*
*
***Output Voltage Clamp-1***
RX2	60	210	Rideal	0.001
DzVoutP	61	60	DzVoutP
DzVoutN	60	62	DzVoutN
DVoutP	61	63	diode
DVoutN	64	62	diode
.param M=20m, OS=6.3
Grail 0 Rail VALUE={1m*LIMIT(M*V(102,103)+OS, 6.36, 6.52)}
Rrail 0 Rail 1k
Crail 0 Rail 1n
ErailP 65 63 Value={V(Rail)}
ErailN 64 66 Value={V(Rail)}
e60	65	110	111	110	1.027
e61	66	110	112	110	1.027
*
*
***Buffer***
g220	220	110	210	110	0.001
R220	220	110	Rideal	1000
*
***Buffer***
g230	230	110	220	110	0.001
R230	230	110	Rideal	1000
*
***Buffer***
g240	240	110	230	110	0.001
R240	240	110	Rideal	1000
*
***Buffer***
g245	245	110	240	110	0.001
R245	245	110	Rideal	1000
*
***Buffer***
g250	250	110	245	110	0.001
R250	250	110	Rideal	1000
*
***Buffer***
g255	255	110	250	110	0.001
R255	255	110	Rideal	1000
*
***Buffer***
g260	260	110	255	110	0.001
R260	260	110	Rideal	1000
*
***Buffer***
g265	265	110	260	110	0.001
R265	265	110	Rideal	1000
*
***Peak: f=0.6MHz, Zeta=0.8, Gain=3dB***
e266	266	110	265	110	1
R266	266	268	Rideal	10
L266	266	267	1657.862e-9
C266	267	268	42441.27e-12
R267	268	110	Rideal	24.24
e270	270	110	268	110	-1.4125
*
***Notch: f=100MHz, Zeta=1.9, Gain=2.3dB***
e271	271	110	270	110	1
R271	271	285	Rideal	10
R272	285	272	Rideal	32.985
L271	272	273	18.003e-9
C271	273	110	140.697e-12
*
***Peak: f=110MHz, Zeta=1, Gain=1.4dB***
e286	286	110	285	110	1
R286	286	288	Rideal	10
L286	286	287	7.234e-9
C286	287	288	289.372e-12
R287	288	110	Rideal	57.176
e295	295	110	288	110	1.1749
*
***Output Stage***
g300	300	110	295	110	0.001
R300	300	110	Rideal	1000
e301	301	110	300	110	1
Rout	302	303	Rideal	 26
Lout	303	310	3.1e-9
Cout	310	110	3e-12
*
*
***Output Current Limit***
H1	301	304	Vsense1	100
Vsense1	301	302	dc	0
VIoutP	305	304	dc	10.636
VIoutN	304	306	dc	10.636
DIoutP	307	305	diode
DIoutN	306	307	diode
Rx3	307	300	Rideal	0.001
*
*
***Output Clamp-2***
.param Rail2=0 ;2.085
VoutP1	111	73	dc	{Rail2} 
VoutN1	74	112	dc	{Rail2}
DVoutP1	75	73	diode
DVoutN1	74	75	diode
RX4	75	310	Rideal	0.001
*
*
***Supply Currents***
FIoVcc	314	110	Vmeas8	1
Vmeas8	310	311	dc	0
R314	110	314	Rideal	1e9
DzOVcc	110	314	diode
DOVcc	102	314	diode
RX5	311	312	Rideal	0.001
FIoVee	315	110	Vmeas9	1
Vmeas9	312	313	dc	0
R315	315	110	Rideal	1e9
DzOVee	315	110	diode
DOVee	315	103	diode
*
*
***Output Switch***
S4	104	313	106	113	Switch
*
*
*** Common Models ***
.model	diode	d(bv=100)
.model	Switch	vswitch(Von=0.705,Voff=0.695,ron=0.001,roff=1e6)
.model	Sswitch	vswitch(Von=3,Voff=0.1,ron=1000,roff=1e6)
.model	DzVoutP	D(BV=4.3)
.model	DzVoutN	D(BV=4.3)
.model	DVnoisy	D(IS=2.46e-16 KF=1.52e-16)
.model	DINnoisy	D(IS=1.91e-17 KF=1.54e-16)
.model	DIPnoisy	D(IS=1.91e-17 KF=1.54e-16)
.model	Rideal	res(T_ABS=-273)
*
.ends Amp
*
*
*
.Subckt ADA4932-Vocm 100 101 102 103 104 106
*
***Power Supplies***
Rz1	102	1020	Rideal	1e-6
Rz2	103	1030	Rideal	1e-6
R3	96	0	Rideal	1e3
S6	97	96	1020	1030	Sswitch
V2	97	0	dc	2
gBias	1020	1030	96	0	0e-3
DzPS	98	1020	diode
gQuies	1020	98	96	0	0e-3
S1	98	1030	106	113	Switch
R1	1020	99	Rideal	1e7
R2	99	1030	Rideal	1e7
e1	111	110	1020	110	1
e2	110	112	110	1030	1
e3	110	0	99	0	1
*
*
***Inputs***
S2	1	100	106	113	Switch
Rs3	9	101	Rideal	1e-6
VOS	2	1	dc	1e-3
*
*
***Non-Inverting Input with Clamp***
g1	3	110	110	2	0.001
RInP	3	110	Rideal	1e3
RX1	40	3	Rideal	0.001
DInP	40	41	diode
DInN	42	40	diode
VinP	111	41	dc	1.66
VinN	42	112	dc	1.66
*
*
***Vnoise***
hVn	6	5	Vmeas1	707.10678
Vmeas1	20	110	DC	0
Vvn	21	110	dc	0.65
Dvn	21	20	DVnoisy
hVn1	6	7	Vmeas2	707.10678
Vmeas2	22	110	dc	0
Vvn1	23	110	dc	0.65
Dvn1	23	22	DVnoisy
*
*
***Inoise***
FnIN	9	110	Vmeas3	0.7071068
Vmeas3	51	110	dc	0
VnIN	50	110	dc	0.65
DnIN	50	51	DINnoisy
FnIN1	110	9	Vmeas4	0.7071068
Vmeas4	53	110	dc	0
VnIN1	52	110	dc	0.65
DnIN1	52	53	DINnoisy
*
FnIP	2	110	Vmeas5	0.7071068
Vmeas5	31	110	dc	0
VnIP	30	110	dc	0.65
DnIP	30	31	DIPnoisy
FnIP1	110	2	Vmeas6	0.7071068
Vmeas6	33	110	dc	0
VnIP1	32	110	dc	0.65
DnIP1	32	33	DIPnoisy
*
*
***CMRR***
RcmrrP	3	10	Rideal	1e12
RcmrrN	10	9	Rideal	1e12
g10	11	110	10	110	-1e-10
Lcmrr	11	12	1e-12
Rcmrr	12	110	Rideal	1e3
e4	5	3	11	110	0
*
*
***Power Down***
VPD	111	80	dc	2.5
VPD1	81	0	dc	0.7
RPD	111	106	Rideal	21e6
ePD	80	113	82	0	1
RDP1	82	0	Rideal	1e3
CPD	82	0	1e-10
S5	81	82	83	113	Switch
CDP1	83	0	1e-12
RPD2	106	83	1
*
*
*
*
***Gain Split***
g200	200	110	7	9	1
R200	200	110	Rideal	1
*
*
***Dominant Pole at 54 kHz***
g210	210	110	Value={limit(V(200,110)*4.864e-4,2.086e-4,-2.086e-4)}
R210	210	110	Rideal	2.947e6
C210	210	110	1e-12
*
*
***Buffer***
g220	220	110	210	110	0.001
R220	220	110	Rideal	1000
*
***Buffer***
g230	230	110	220	110	0.001
R230	230	110	Rideal	1000
*
***Buffer***
g240	240	110	230	110	0.001
R240	240	110	Rideal	1000
*
***Buffer***
g245	245	110	240	110	0.001
R245	245	110	Rideal	1000
*
***Buffer***
g250	250	110	245	110	0.001
R250	250	110	Rideal	1000
*
***Buffer***
g255	255	110	250	110	0.001
R255	255	110	Rideal	1000
*
***Buffer***
g260	260	110	255	110	0.001
R260	260	110	Rideal	1000
*
***Buffer***
g265	265	110	260	110	0.001
R265	265	110	Rideal	1000
*
***Buffer***
g270	270	110	265	110	0.001
R270	270	110	Rideal	1000
*
***Notch: f=290MHz, Zeta=1, Gain=1.1dB***
e280	280	110	270	110	1
L280	285	281	23.069e-9
C280	281	282	13.056e-12
R281	282	110	Rideal	74.068
R280	280	285	Rideal	10
*
***Buffer***
R291	292	110	Rideal	1E6
R290	290	292	Rideal	1E-6
e290	290	110	285	110	1
e295	295	110	292	110	1
*
*
***Output Stage***
g300	300	110	295	110	0.001
R300	300	110	Rideal	1000
e301	301	110	300	110	1
Rout	301	310	Rideal	1
*
*
***Supply Currents***
FIoVcc	314	110	Vmeas8	1
Vmeas8	310	311	dc	0
R314	110	314	Rideal	1e9
DzOVcc	110	314	diode
DOVcc	102	314	diode
RX5	311	312	Rideal	0.001
FIoVee	315	110	Vmeas9	1
Vmeas9	312	313	dc	0
R315	315	110	Rideal	1e9
DzOVee	315	110	diode
DOVee	315	103	diode
*
*
***Output Switch***
Rs4	104	313	Rideal	1e-6
*
*
*** Common Models ***
.model	diode	d(bv=100)
.model	Switch	vswitch(Von=0.705,Voff=0.695,ron=0.001,roff=1e6)
.model	Sswitch	vswitch(Von=3,Voff=0.1,ron=1000,roff=1e6)
.model	DzVoutP	D(BV=4.3)
.model	DzVoutN	D(BV=4.3)
.model	DVnoisy	D(IS=3.51e-15 KF=1.53e-16)
.model	DINnoisy	D(IS=3.81e-17 KF=1.54e-16)
.model	DIPnoisy	D(IS=3.81e-17 KF=1.54e-16)
.model	Rideal	res(T_ABS=-273)
*
.ends
